US07119207B2
7-[(6,6-Dimethyl-2-phenyl-piperidin-3-ylamino)-methyl]-6-methoxy-1-methyl-3,4-dihydro-1H-quinolin-2-one
By a procedure similar to the previous examples 9 and 9A: prepared through the reaction of 6,6-dimethyl-2-phenyl-piperidin-3-ylamine with 6-Methoxy-1-methyl-2-oxo-1,2,3,4-tetrahydro-quinoline-7-carbaldehyde. Mass spectrum calcd for C25H34N3O2 (M+1) 408; found 408.

reactant | 6,6-dimethyl-2-phenyl-piperidin-3-ylamine | CC1(CCC(C(N1)C1=CC=CC=C1)N)C | C13H20N2
reactant | 6-Methoxy-1-methyl-2-oxo-1,2,3,4-tetrahydro-quinoline-7-carbaldehyde | COC=1C=C2CCC(N(C2=CC1C=O)C)=O | C12H13NO3
product | 7-[(6,6-Dimethyl-2-phenyl-piperidin-3-ylamino)-methyl]-6-methoxy-1-methyl-3,4-dihydro-1H-quinolin-2-one | CC1(CCC(C(N1)C1=CC=CC=C1)NCC1=C(C=C2CCC(N(C2=C1)C)=O)OC)C | C25H33N3O2
